US07517532B2
2-(4-Fluorobenzyl)-8,9-dihydroxy-7-(piperidin-1-ylmethyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione
A mixture of 2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione (0.2 g, 0.66 mmol), piperidine (0.13 mL, 1.3 mmol), and formaldehyde (0.08 mL, 37% solution in water) in absolute ethanol (5 mL) was stirred at room temperature for 6 h. The product mixture was concentrated under vacuum, and the residue was subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provided the title compound.

reactant | 2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | 0.66 mmol, 0.2 g | FC1=CC=C(CN2C(C=3N(CC2)C(C=C(C3O)O)=O)=O)C=C1 | C15H13FN2O4
reactant | piperidine | 1.3 mmol, 0.13 mL | N1CCCCC1 | C5H11N
reactant | formaldehyde | 0.08 mL | C=O | CH2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(4-Fluorobenzyl)-8,9-dihydroxy-7-(piperidin-1-ylmethyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | FC1=CC=C(CN2C(C=3N(CC2)C(C(=C(C3O)O)CN3CCCCC3)=O)=O)C=C1 | C21H24FN3O4
